US07932282B2
Step (i) Phosphorus oxychloride (2.2 ml, 24 mmol) was added dropwise to a stirred solution of (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid (5.28 g, 20 mmol) in pyridine (10 ml), tert-butanol (15 ml) and chloroform (25 ml) at −10° C. The mixture was stirred at −5 to 0° C. for 30 minutes and then at room temperature for 4 hours. The solution was added dropwise to stirred ice water (200 ml) containing sodium acetate (˜40 g). The mixture was diluted with chloroform (100 ml) and the mixture was stirred for 30 minutes. The organic layer was separated, washed with cold 0.1M hydrochloric acid, water, saturated sodium hydrogen carbonate solution, water and brine, dried (MgSO4) and evaporated. The residue was dried to give 5-(1,1-dimethylethyl)1-(phenylmethyl)2-oxo-1,5-imidazolidinedicarboxylate (5.65 g, 88%) as a colourless solid. LC/MS [M+H]+=321. [For a method similar to this step (i), see: K. Hayashi et al., J. Med. Chem., 1989, 32(2), 289-297; e.g. see Scheme 1 and compounds (5) and (6a) on p. 289 therein and synthesis of compound (6a) in p. 293 experimental section therein, incorporated herein by reference.] Step (ii) To a stirred solution of 5-(1,1-dimethylethyl)1-(phenylmethyl)2-oxo-1,5-imidazolidinedicarboxylate (4.16 g, 13 mmol) in DMF (60 ml) at 0° C. was added sodium hydride (60% dispersion in oil) (0.546 g, 13.65 mmol). After 40 minutes at 0° C. iodomethane (4.06 ml, 65.0 mmol) was added and the reaction was allowed to warm to room temperature. After 6 hours the solvent was evaporated and the residue was partitioned between ethyl acetate and water. The organic phase was separated, washed with water and brine, dried (MgSO4) and evaporated. The residue was purified by silica gel chromatography eluting with 30-100% ethyl acetate in hexanes to give 4-(1,1-dimethylethyl)1-(phenylmethyl)3-methyl-2-oxo-1,4-imidazolidinedicarboxylate (3.12 g, 9.33 mmol, 72%) (LC/MS [M+H]+=335) and 5-(1,1-dimethylethyl)1-(phenylmethyl)3-methyl-2-oxo-1,5-imidazolidinedicarboxylate (560 mg, 1.675 mmol, 12%) (LC/MS [M+H]+=335). Step (iii) A solution of 4-(1,1-dimethylethyl)1-(phenylmethyl)3-methyl-2-oxo-1,4-imidazolidinedicarboxylate (3.12 g, 9.33 mmol) in methanol (40 ml) containing Pd/C (10% paste, 400 mg) was hydrogenated at room temperature and pressure for 18 hours. The mixture was filtered through a filter pad and the pad washed with methanol. The filtrates were combined, evaporated and dried to give 1,1-dimethylethyl 3-methyl-2-oxo-4-imidazolidinecarboxylate (1.76 g, 94%). LC/MS [M+H]+=201. Step (iv) A solution of 1,1-dimethylethyl 3-methyl-2-oxo-4-imidazolidinecarboxylate (300 mg, 1.5 mmol) and 5-bromo-2-methylpyridine (258 mg, 1.5 mmol) in 1,4-dioxane (10 ml) was treated with cesium carbonate (733 mg, 2.25 mmol), Xantphos™ (65.1 mg, 0.113 mmol) and tris(dibenzylideneacetone)dipalladium(0) (34.3 mg, 0.038 mmol) and the mixture was heated under reflux under argon for 18 hours. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layers were combined, washed with water and brine and evaporated in vacuo. The residue was purified by silica gel chromatography eluting with 0-10% methanol in dichloromethane to give 1,1-dimethylethyl 3-methyl-1-(6-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxylate (352 mg, 81%). LC/MS [M+H]+=292. Step (v) A solution of 1,1-dimethylethyl 3-methyl-1-(6-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxylate (352 mg, 1.2 mmol) in TFA/DCM (1:2, 6 ml) was stirred at room temperature for 6 hours. The solution was evaporated and the residue was dried to give crude acid (assume ˜1.2 mmol, TFA salt) which was used in the next step. LC/MS [M+H]+=236.

reactant | 1,1-dimethylethyl 3-methyl-2-oxo-4-imidazolidinecarboxylate | 1.5 mmol, 300 mg | CN1C(NCC1C(=O)OC(C)(C)C)=O | C9H16N2O3
reactant | 5-bromo-2-methylpyridine | 1.5 mmol, 258 mg | BrC=1C=CC(=NC1)C | C6H6BrN
reactant | cesium carbonate | 2.25 mmol, 733 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.038 mmol, 34.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-dimethylethyl 3-methyl-1-(6-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxylate | 352 mg, 81% | CN1C(N(CC1C(=O)OC(C)(C)C)C=1C=NC(=CC1)C)=O | C15H21N3O3
